US04933467
Preparation of N-phenylphthalimide
To a dry 3-neck, 25 mL round bottom flask equipped with a Teflon® resin coated stir bar, a balloon filled with carbon monoxide and a vacuum/argon inlet was placed o-diiodobenzene (320 mg, 0.97 mmol), aniline (90 mg, 0.97 mmol), palladium tetrakis(triphenylphosphine) (PdL4) (56 mg, 0.048 mmol=5%) and N,N-dimethylacetamide (DMAc, 2.9 mL). The mixture was stirred and degassed three times with argon, and then the argon atmosphere was replaced with carbon monoxide by three successive evacuations of the flask. The flask was then immersed in a 115° C. oil bath and heated until the reagents had dissolved. Then 1,8-diazobicyclo[5,4,0]undec-7-ene (DBU, 320 μl, 2.13 mmol) was added by syringe. After about 12 hours the product was produced in quantitative yield as determined by gas chromatography. The mixture was cooled, diluted with chloroform, extracted with water, dried over MgSO4, precipitated with methanol, collected by filtration, and dried in vacuo to give 40 mg product (19%). Much of the product remained in the filtrate.

reactant | carbon monoxide | [C]=O | CO
reactant | o-diiodobenzene | 0.97 mmol, 320 mg | IC1=C(C=CC=C1)I | C6H4I2
reactant | aniline | 0.97 mmol, 90 mg | NC1=CC=CC=C1 | C6H7N
reactant | N,N-dimethylacetamide | 2.9 mL | CN(C(C)=O)C | C4H9NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | palladium tetrakis(triphenylphosphine) | 0.048 mmol, 56 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | N-phenylphthalimide | 40 mg, 19% | C1(=CC=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C14H9NO2
